### PR TITLE
feat: tree map lemmas for `filter`, `map`, `filterMap`

### PR DESCRIPTION
**Pull request by Rob23oba**
This PR adds lemmas for the `TreeMap` operations `filter`, `map` and `filterMap`. These lemmas existed already for hash maps and are simply ported over from there.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 5c2ae7b414fdf7181118d67050d5436b180948cb --onto 6ae31ea2d6e9d6d30c0e2bedac166377a15d07ef`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-07-30 18:25:41)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 5c2ae7b414fdf7181118d67050d5436b180948cb --onto 3a3c816a27c0bd454711e2f9e4e20cbbde47ba85`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-07-31 14:29:30)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 3eab35ef22d1682acbb546d2e3b24767709fb06e --onto c260435913353a138e3d463b533d1449de0d0062`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-04 20:55:00)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 3eab35ef22d1682acbb546d2e3b24767709fb06e --onto 6f7dba167aab2c9805ecb18ead747f673fbd9516`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-17 13:37:25)

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 1]
```diff
@@ -6820,4 +6830,649 @@ end Const
...
+    {f : α → β → γ} {k : α} (h : t.WF) :
+    Const.get! (t.map f) k = ((Const.get? t k).map (f k)).get! := by
+  simp [get!_map' h, getKey_eq h]
+
+theorem get!_map_of_getKey?_eq_some [TransOrd α] [Inhabited γ]
+    {f : α → β → γ} {k k' : α} (h : t.WF) :
+    t.getKey? k = some k' → Const.get! (t.map f) k = ((Const.get? t k).map (f k')).get! := by
+  simp_to_model [map, Const.get!, Const.get?, getKey?] using Const.getValue!_map_of_getKey?_eq_some
+
+/-- Variant of `getD_map` that holds with `EquivBEq` (i.e. without `LawfulBEq`). -/
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean]:
```suggestion
/-- Variant of `getD_map` that holds without `LawfulEqOrd`. -/
```

**Comment by TwoFX** [comment]
Please let me know once the PR is ready for me to have a first look at the lemmas.

**Comment by Rob23oba** [comment]
There you go, all the lemmas for `filter` / `map` / `filterMap` + other alignment and small fixes

File: src/Std/Data/DTreeMap/Lemmas.lean [hunk 2]
```diff
@@ -4832,4 +4864,781 @@ end Const
...
+  Impl.Const.size_filterMap_eq_size_iff t.wf
+
+@[simp]
+theorem get?_filterMap [TransCmp cmp]
+    {f : α → β → Option γ} {k : α} :
+    Const.get? (t.filterMap f) k = (Const.get? t k).pbind (fun x h' =>
+      f (t.getKey k (mem_iff_isSome_get?.mpr (Option.isSome_of_eq_some h'))) x) :=
+  Impl.Const.get?_filterMap t.wf
+
+/-- Simpler variant of `get?_filterMap` when `LawfulEqOrd` is available. -/
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Lemmas.lean]:
```suggestion
/-- Simpler variant of `get?_filterMap` when `LawfulEqCmp` is available. -/
```
also elsewhere

**Review by TwoFX — COMMENTED** [review]
Looking good except for the remark about the inaccurate comments.

**Review by TwoFX — APPROVED** [review]
Thanks!
